US07256305B2
In a 50 mL-volumetric autoclave were added deaerated methanol (10 mL) and t-butyl methyl ether (10 mL), and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (R)-benzylglycidyl ether (3.3 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 40° C. for 6 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (R)-4-benzyloxy-3-hydroxybutanoic acid methyl ester (4.3 g, 95%, >99% ee) as a colorless oil.

reactant | methanol | 10 mL | CO | CH4O
reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (R)-benzylglycidyl ether | 20 mmol, 3.3 g | C(C1=CC=CC=C1)OC[C@H]1CO1 | C10H12O2
reactant | carbon monoxide | [C]=O | CO
reactant | t-butyl methyl ether | 10 mL | COC(C)(C)C | C5H12O
product | (R)-4-benzyloxy-3-hydroxybutanoic acid methyl ester | 4.3 g, 95% | COC(C[C@H](COCC1=CC=CC=C1)O)=O | C12H16O4
